US07759344B2
4-Iodo-1H-indazol-3-amine.
A mixture of 2-fluoro-6-iodobenzonitrile (5.040 g, 20 mmol), hydrazine hydrate (10 ml, 319 mmol) and n-butanol (100 mL) were heated at 110 C for 5 h and the mixture allowed to cool to rt. The mixture was partitioned between 100 mL EtOAc and 200 mL water and the layers separated. The aqueous layer was extracted with additional EtOAc (25 mL) and combined with organic layer. The combined organic layers were combined and washed with water, brine, dried over Na2SO4, filtered and evaporate. The title compound was obtained as an off-white solid (5.25 g). 1H NMR (400 MHz, dmso-d6) δ 11.79 (s, 1H), 7.34 (d, J=7.2 Hz, 1H), 7.27 (d, J=8.3 Hz, 1H), 6.90-6.95 (m, 1H), 5.04 (s, 2H).

reactant | 2-fluoro-6-iodobenzonitrile | 20 mmol, 5.040 g | FC1=C(C#N)C(=CC=C1)I | C7H3FIN
reactant | hydrazine hydrate | 319 mmol, 10 ml | O.NN
solvent | n-butanol | 100 mL | C(CCC)O | C4H10O
product | 4-Iodo-1H-indazol-3-amine | IC1=C2C(=NNC2=CC=C1)N | C7H6IN3
